US05165957
32.21 Gram of 3,3',4,4'-benzophenonetetracarboxylic dianhydride in 69.1 g of N-methyl-2-pyrrolidone was heated to 80° C., and 9.21 g of ethanol was added and reacted at 100° C. for 2 hr to form a solution of benzophenone-tetracarboxylic ester. To this solution was added 20.01 g of 4,4'-diaminodiphenyl ether and reacted at 80° C. for 3 hr. The thus obtained solution of poly(amic acid) ester oligomer was found to have a viscosity of 2 poises at 25° C.

reactant | 3,3',4,4'-benzophenonetetracarboxylic dianhydride | C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C17H6O7
reactant | ethanol | 9.21 g | C(C)O | C2H6O
solvent | N-methyl-2-pyrrolidone | 69.1 g | CN1C(CCC1)=O | C5H9NO
product | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
